US08629160B2
2-Chloro-1-phenylethanone (17.6 mg, 0.11 mmol) was added to a solution of ethyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate (C65) (50 mg, 0.11 mmol) in EtOAc (2 ml). The reaction mixture was stirred at room temperature overnight, and then the solvent was evaporated to dryness. The residue was triturated with Et2O and then purified by preparative HPLC (Eluent: CH3CN/H2O) to obtain (3R)-3-(2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (26.3 mg, 38.9% yield).

reactant | 2-Chloro-1-phenylethanone | 0.11 mmol, 17.6 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | ethyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate | 0.11 mmol, 50 mg | COC1=CC=C(C=N1)C(C(O[C@H]1CN2CCC1CC2)=O)NC=2C=C(C(=O)OCC)C=CC2 | C24H29N3O5
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 26.3 mg, 38.9% yield | [Cl-].C(C)OC(=O)C=1C=C(C=CC1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C=2C=NC(=CC2)OC | InChI=1S/C32H36N3O6.ClH/c1-3-40-31(37)24-10-7-11-26(18-24)34-30(25-12-13-29(39-2)33-19-25)32(38)41-28-21-35(16-14-23(28)15-17-35)20-27(36)22-8-5-4-6-9-22;/h4-13,18-19,23,28,30,34H,3,14-17,20-21H2,1-2H3;1H/q+1;/p-1/t23?,28-,30?,35?;/m0./s1
